US08629270B2
tert-Butyl N-allyl-N-[2-hydroxyimino-2-isothiazol-5-yl-ethyl]carbamate
To a room temperature solution of tert-butyl N-allyl-N-(2-isothiazol-5-yl-2-oxo-ethyl)carbamate (5.93 g, 21.00 mmol) in ethanol (70 mL) is added pyridine (5.94 mL, 73.50 mmol) and hydroxylamine hydrochloride (3.65 g, 52.50 mmol). The mixture is heated to reflux for 4 hours. The mixture is allowed to cool to room temperature and is then concentrated under reduced pressure. The resulting crude product is diluted with ethyl acetate (200 mL) and washed with saturated sodium bicarbonate (150 mL). The aqueous layer is re-extracted with ethyl acetate (2×100 mL). The combined organic layers are dried over sodium sulfate, filtered, and the solvent is removed under vacuum. The crude product is purified by silica gel column chromatography using a 15 minute, 0% to 20% ethyl acetate in dichloromethane gradient, to give the title compound as a mixture of E and Z isomers (5.62 g, 18.90 mmol, 90%). ES/MS (m/e): 298 (M+H).

reactant | tert-butyl N-allyl-N-(2-isothiazol-5-yl-2-oxo-ethyl)carbamate | 21.00 mmol, 5.93 g | C(C=C)N(C(OC(C)(C)C)=O)CC(=O)C1=CC=NS1 | C13H18N2O3S
reactant | pyridine | 73.50 mmol, 5.94 mL | N1=CC=CC=C1 | C5H5N
reactant | hydroxylamine hydrochloride | 52.50 mmol, 3.65 g | Cl.NO
solvent | ethanol | 70 mL | C(C)O | C2H6O
product | tert-Butyl N-allyl-N-[2-hydroxyimino-2-isothiazol-5-yl-ethyl]carbamate | C(C=C)N(C(OC(C)(C)C)=O)CC(C1=CC=NS1)=NO | C13H19N3O3S
